US08030500B2
5-(3-(3-Amino-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-1-yl)-4-fluorophenyl)nicotinonitrile
The title compound was synthesized as described for Example 1 in 65% yield, starting from 1-(5-bromo-2-fluorophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine (60.0 mg, 0.13 mmol) and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinonitrile (32.4 mg, 0.14 mmol).

reactant | 1-(5-bromo-2-fluorophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 0.13 mmol, 60.0 mg | BrC=1C=CC(=C(C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C(F)(F)F)F | C20H11BrF5N3
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinonitrile | 0.14 mmol, 32.4 mg | CC1(OB(OC1(C)C)C=1C=NC=C(C#N)C1)C | C12H15BN2O2
product | 5-(3-(3-Amino-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-1-yl)-4-fluorophenyl)nicotinonitrile | 65% yield | NC1=NC(C2=CC=CC(=C12)F)(C1=CC(=NC=C1)C(F)(F)F)C=1C=C(C=CC1F)C=1C=NC=C(C#N)C1 | C26H14F5N5
